* gnetlist -g spice-sdb -o PWM_555.net PWM_555.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from /home/esteban/SPICE_models/1N4007.mod vvvvvvvv
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May 30, 03
* MODEL FORMAT: PSpice
.MODEL D1n4007 d
+IS=7.02767e-09 RS=0.0341512 N=1.80803 EG=1.05743
+XTI=5 BV=1000 IBV=5e-08 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1e-07
+KF=0 AF=1


*^^^^^^^^  End of included SPICE model from /home/esteban/SPICE_models/1N4007.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from /home/esteban/SPICE_models/uA555.sub vvvvvvvv
.SUBCKT UA555  1 2 3 4 5 6 7 8
*              G T O R F TH D V
Q4 25 N2 N3 QP
Q5 1 N6 N3 QP
Q6 N6 N6 N8 QP
R1 9 8 4.7K
R2 N3 8 830
R3 N8 8 4.7K
Q7 N2 6 N5 QN
Q8 N2 N5 17 QN
Q9 N6 N4 17 QN
Q10 N6 5 N4 QN
Q11 12 20 10 QP
R4 10 8 1K
Q12 22 11 12 QP
Q13 14 13 12 QP
Q14 1 2 11 QP
Q15 14 18 13 QP
R5 14 1 100K
R6 22 1 100K
R7 17 1 10K
Q16 7 15 1 QN
Q17 15 4 31 QP
R8 18 5 5K
R9 18 1 5K
R10 8 5 5K
Q18 27 20 8 QP
Q19 20 20 8 QP
R11 20 31 5K
D1 31 24 DA
Q20 24 25 1 QN
Q21 25 22 1 QN
Q22 27 24 1 QN
R12 25 27 4.7K
R13 8 29 6.8K
Q23 8 29 28 QN
Q24 29 27 16 QN
Q25 3 26 1 QN
Q26 8 28 3 QN
D2 3 29 DA
R14 16 15 100
R15 16 26 220
R16 16 1 4.7K
R17 28 3 3.9K
Q3 N2 N2 9 QP
.MODEL DA D (RS=40 IS=1.0E-14 CJO=1PF)
.MODEL QP PNP (level=1 BF=20 BR=0.02 RC=4 RB=25 IS=1.0E-14 VA=50 NE=2)
+ CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=159N)
.MODEL QN NPN (level=1 IS=5.07F NF=1 BF=100 VAF=161 IKF=30M ISE=3.9P NE=2
+ BR=4 NR=1 VAR=16 IKR=45M RE=1.03 RB=4.12 RC=.412 XTB=1.5
+ CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=959P)
.ENDS UA555
 
*^^^^^^^^  End of included SPICE model from /home/esteban/SPICE_models/uA555.sub ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
X1 0 timingcap output 1 2 timingcap 6 1 UA555
R4 6 0 10k  
R3 5 3 10k  
R2 4 3 90k  
D2 5 output D1n4007 
D1 output 4 D1n4007 
C2 0 timingcap 100n  
R1 3 timingcap 1k  
C1 2 0 100n  
V1 1 0 5V
.end
